US08461134B2
To a solution of N-(3-(bromomethyl)phenyl)acetamide (6.6 g, 29 mmol) in CH3CN (50 mL) and water (10 mL) was added K2CO3 (6 g, 43 mmol) and EtSH (1.79 g, 29 mmol). The mixture was stirred at r.t. overnight. After removal of the solvent, the residue was extracted with EtOAc, dried and concentrated to give the crude product. The crude was purified by silica gel chromatography (petroleum ether:EtOAc=1:0 to 10:1) to give N-(3-(ethylthiomethyl)phenyl)acetamide (3.4 g, 56% yield) as a light yellow solid. 1H NMR: (400 MHz, CDCl3) δ 7.81 (s, 1H), 7.41 (s, 1H), 7.34 (d, 1H), 7.22-7.17 (m, 1H), 7.01 (d, 1H), 3.61 (s, 2H), 2.41-2.34 (m, 2H), 2.11 (s, 3H), 1.24 (t, 3H).

reactant | N-(3-(bromomethyl)phenyl)acetamide | 29 mmol, 6.6 g | BrCC=1C=C(C=CC1)NC(C)=O | C9H10BrNO
reactant | K2CO3 | 43 mmol, 6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtSH | 29 mmol, 1.79 g | CCS | C2H6S
solvent | CH3CN | 50 mL | CC#N | C2H3N
solvent | water | 10 mL | O | H2O
product | N-(3-(ethylthiomethyl)phenyl)acetamide | 3.4 g, 56% yield | C(C)SCC=1C=C(C=CC1)NC(C)=O | C11H15NOS
